US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-methoxy-6-(piperazin-1-yl)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-3-methoxypyridin-2-yl)piperazine-1-carboxylate (91 mg, 0.156 mmol) was deprotected in methanol/HCl in dioxane (5/5 ml) to afford 52 mg (56% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.727-8.722 (d, 1H), 8.626-8.622 (d, 1H), 8.29 (s, 1H), 8.19-8.18 (d, 1H), 8.00 (s, 1H), 7.81 (s, 1H), 7.75-7.74 (d, 1H), 7.37-7.35 (q, 1H), 7.12-7.10 (d, 1H), 7.02-6.99 (m, 2H), 5.44 (s, 2H), 4.03 (s, 3H), 3.78-3.74 (t, 4H), 3.39-3.32 (m, 4H). MS: m/z=484.3 (M+1), HPLC: 97.58% in method A.

reactant | tert-butyl 4-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-3-methoxypyridin-2-yl)piperazine-1-carboxylate | 0.156 mmol, 91 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C(=NC3)N3CCN(CC3)C(=O)OC(C)(C)C)OC)C=CC1 | C32H34FN7O3
solvent | methanol HCl | CO.Cl
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(5-methoxy-6-(piperazin-1-yl)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine | 52 mg, 56% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=NC(=C(C3)OC)N3CCNCC3)C=CC1 | C27H26FN7O
